US04402960
Under the conditions of Example 85, 6.25 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole is reacted in 150 ml of dimethylformamide in the presence of a pinch of powdered copper with 0.60 g of sodium hydride (80% in oil) and a diazonium salt solution prepared from 3.26 g of 3-trifluoromethylaniline (99%), 1.38 g of sodium nitrite, as well as 10 ml of 6 N hydrochloric acid. Chromatography according to Example 85 yields 3.27 g of 4,5-bis(4-methoxyphenyl)-2-(3-trifluoromethylphenylthio)imidazole as an amorphous foam.

reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 6.25 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | 3-trifluoromethylaniline | 3.26 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | sodium nitrite | 1.38 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 N, 10 ml | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | copper | [Cu] | Cu
product | 4,5-bis(4-methoxyphenyl)-2-(3-trifluoromethylphenylthio)imidazole | 3.27 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC(=CC=C1)C(F)(F)F | C24H19F3N2O2S
